US05137886
(iii) 2-(morpholine-4-sulphonyl)-6-fluoropyridine
To a solution of 6-fluoropyridine-2-sulphonyl chloride (1.96 g) in chloroform (40 cm3) at 0° C. was added a solution of morpholine (1.74 g) in chloroform (20 cm3). The reaction was quenched in water (100 cm3) and the product extracted into chloroform (3×50 cm3). The combined organic layers were washed with water, dried over anhydrous magnesium sulphate and the solvent evaporated under reduced pressure to give the title compound which was used without further purification.

reactant | 6-fluoropyridine-2-sulphonyl chloride | 1.96 g | FC1=CC=CC(=N1)S(=O)(=O)Cl | C5H3ClFNO2S
reactant | morpholine | 1.74 g | N1CCOCC1 | C4H9NO
solvent | chloroform | 40 cm3 | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 20 cm3 | C(Cl)(Cl)Cl | CHCl3
product | 2-(morpholine-4-sulphonyl)-6-fluoropyridine | N1(CCOCC1)S(=O)(=O)C1=NC(=CC=C1)F | C9H11FN2O3S
